US06713471B1
The tert-butyl 1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate (2.00 g, 6.02 mmol) was dissolved in anhydrous DMF (50 mL) and then cooled in an ice/acetone bath at −10° C. for 20 min. Next, N-bromosuccinimide (1.18 g, 6.62 mmol) was added in one portion. The reaction mixture was stirred for 40 min at −10° C., then poured over an ice/water mixture (300 mL). The resulting suspension was stirred at room temperature for 30 min, and extracted with diethyl ether (4×100 mL). The organic extracts were pooled together, washed with brine and dried over anhydrous sodium sulfate. After removing the solvent under reduced pressure, tert-butyl 5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate was obtained as a yellow foam (2.24 g, 91%). 1H NMR (300 MHz, CDCl3) δ1.47 (s, 9H), 1.77 (m, 2H), 3.46-3.48 (m, 4 H), 2.87-3.48 (m, 6 H), 6.93 (s, 1H), 6.97 (s, 1H) ppm.

reactant | tert-butyl 1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | 6.02 mmol, 2.00 g | C1CSC=2C=CC=C3C4C(N1C23)CCN(C4)C(=O)OC(C)(C)C | C18H24N2O2S
reactant | N-bromosuccinimide | 6.62 mmol, 1.18 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | BrC=1C=C2C3C(N4C2=C(C1)SCC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2S
